US08278441B2
Racemic N-((1SR,2RS,4RS)-1-(3-Bromo-4-fluorophenyl)-4-hydroxy-2-(hydroxymethyl)cyclopentylcarbamothioyl)benzamide
To a solution of racemic (1RS,3SR,4RS)-3-amino-3-(3-bromo-4-fluorophenyl)-4-(hydroxymethyl)cyclopentanol (0.48 g, 1.58 mmol) in THF (6.31 mL) is added benzoyl isothiocyanate (0.263 g, 1.58 mmol) and the mixture is stirred at room temperature for 1.5 h. The solvent is removed under reduced pressure and the crude product is purified by silica gel chromatography, eluting with a linear gradient of 0% to 10% methanol in dichloromethane over 20 minutes to give the title compound as racemic mixture (0.602 g, 76%). ES/MS m/e (79Br/81Br) 467, 469 (M+1).

reactant | racemic (1RS,3SR,4RS)-3-amino-3-(3-bromo-4-fluorophenyl)-4-(hydroxymethyl)cyclopentanol | 1.58 mmol, 0.48 g | NC1(CC(CC1CO)O)C1=CC(=C(C=C1)F)Br | C12H15BrFNO2
reactant | benzoyl isothiocyanate | 1.58 mmol, 0.263 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | THF | 6.31 mL | C1CCOC1 | C4H8O
product | Racemic N-((1SR,2RS,4RS)-1-(3-Bromo-4-fluorophenyl)-4-hydroxy-2-(hydroxymethyl)cyclopentylcarbamothioyl)benzamide | BrC=1C=C(C=CC1F)C1(C(CC(C1)O)CO)NC(=S)NC(C1=CC=CC=C1)=O | C20H20BrFN2O3S
